US05830868
Step 2: Tyr(OBn)-CO2CH2CH2TMS
Eighty percent TFA in CH2Cl2 (20 mL, v/v) was added to an ice-cooled solution of Boc-Tyr(OBn)-CO2CH2CH2TMS (14.8 g, 31.4 mmol) in CH2Cl2 (40 mL). The resulting mixture was stirred for 1.0 minute before concentrating in vacuo. The procedure was repeated once more, and the resulting residue was diluted with CH2 Cl2 and saturated aqueous NaHCO3. The resulting mixture was filtered through celite. The organic layer was then separated, washed with saturated aqueous NaCl, and dried (MgSO4). Filtration and concentration in vacuo provided an oil which was further purified by flash chromatography (SiO2, CHCl3 :MeOH eluent) to give the desired product;

reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | Boc-Tyr(OBn)-CO2CH2CH2TMS | 31.4 mmol, 14.8 g | N([C@@H](CC1=CC=C(C=C1)OCC1=CC=CC=C1)C(=O)C(=O)OCC[Si](C)(C)C)C(=O)OC(C)(C)C | C27H37NO6Si
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 40 mL | C(Cl)Cl | CH2Cl2
product | Tyr(OBn)-CO2CH2CH2TMS | N[C@@H](CC1=CC=C(C=C1)OCC1=CC=CC=C1)C(=O)C(=O)OCC[Si](C)(C)C | C22H29NO4Si
